US07919504B2
(±)-2-(tert-Butyldimethylsilyloxy)-3-phenylpropanoic acid (1.2 g, 4.3 mmol) was taken up in 18 mL of DMF. N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (1.4 g, 7.1 mmol) and HOBt (1.4 g, 11 mmol) were added. After 10 minutes, 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-amine (0.81 g, 3.6 mmol) (prepared as shown in Scheme 5 using isoquinoline-6-carboxylic acid, commercially available from AstaTech Product List (Order Number 62874), instead of 4-chlorothieno[2,3-c]pyridine-2-carboxylic acid) was added. The mixture was stirred overnight. It was then partitioned between 50 mL of EtOAc and 50 mL of aq. NH4Cl. The aqueous portion was extracted twice with 50 mL of EtOAc. The combined organic extracts were washed with water (3×50 mL) and brine (50 mL) and dried over MgSO4. The mixture was filtered and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (eluting with a gradient of 10% to 50% EtOAc in hexanes) to provide (±)-2-(tert-butyldimethylsilyloxy)-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpropanamide (0.45 g, 26%) as a yellow solid.

reactant | (±)-2-(tert-Butyldimethylsilyloxy)-3-phenylpropanoic acid | 4.3 mmol, 1.2 g | [Si](C)(C)(C(C)(C)C)OC(C(=O)O)CC1=CC=CC=C1 | C15H24O3Si
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 7.1 mmol, 1.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | HOBt | 11 mmol, 1.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-amine | 3.6 mmol, 0.81 g | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)N | C11H8N4S
reactant | isoquinoline-6-carboxylic acid | C1=NC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 4-chlorothieno[2,3-c]pyridine-2-carboxylic acid | ClC1=C2C(=CN=C1)SC(=C2)C(=O)O | C8H4ClNO2S
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | (±)-2-(tert-butyldimethylsilyloxy)-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpropanamide | 0.45 g, 26% | [Si](C)(C)(C(C)(C)C)OC(C(=O)NC=1SC(=NN1)C=1C=C2C=CN=CC2=CC1)CC1=CC=CC=C1 | C26H30N4O2SSi
